US03993656
6-Acetamido-5,7-dimethyl-1,8-naphthyridin-2(1H)-one-3-carboxylic acid
Ethyl 6-acetamido-5,7-dimethyl-1,8-naphthyridin-2(1H)-one-3-carboxylate (321 mg., 1 mmole), prepared as described in Example 28, is dissolved in water (2 ml.) to which has been added 40% w/w potassium hydroxide solution (0.28 ml.) and the clear solution heated on a steam bath for 2 hours. The solution is cooled and acidified to pH 5.5 with dilute acetic acid giving initially a gelatinous precipitate which becomes denser and more crystalline on standing at ambient temperature. The product is collected, washed with water and dried yielding 195 mg. (66%) of product, m.p. 305° C. (dec.). The product is purified by dissolving in dilute ammonium hydroxide solution, treating with charcoal and reprecipitating with acetic acid with no change in melting point.

reactant | Ethyl 6-acetamido-5,7-dimethyl-1,8-naphthyridin-2(1H)-one-3-carboxylate | 1 mmole, 321 mg | C(C)(=O)NC=1C(=C2C=C(C(NC2=NC1C)=O)C(=O)OCC)C | C15H17N3O4
reactant | potassium hydroxide | 0.28 ml | [OH-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 2 ml | O | H2O
product | 6-Acetamido-5,7-dimethyl-1,8-naphthyridin-2(1H)-one-3-carboxylic acid | C(C)(=O)NC=1C(=C2C=C(C(NC2=NC1C)=O)C(=O)O)C | C13H13N3O4
